US05688798
A suspension of 0.195 g (0.0010 mol) of 5-chloromethyl-2-methyl-pyrimidin-4-ylamine in 5 ml of dimethylformamide was treated with 0.42 ml (0.0030 mol) of triethylamine and 0.365 g (0.0010 mol) of 1,2,3,4-tetrahydro-pyridin-4-ylmethyl benzoate and the mixture was stirred at room temperature under argon for 18 hours. The solvent was distilled off in a high vacuum. The residue was partitioned between dichloromethane/water, extracted and dried over MgSO4. After removing the solvent the residue was chromatographed over silica gel with ethyl acetate as the eluent. 0.17 g (74%) of 1-(4-amino-2-methyl-pyrimidin-5-ylmethyl)-1,2,3,6-tetrahydro-pyridin-4-ylmethyl benzoate was obtained as a yellow oil. MS (ISP): me/e=339 (C19 H23N4O2+).

reactant | 5-chloromethyl-2-methyl-pyrimidin-4-ylamine | 0.0010 mol, 0.195 g | ClCC=1C(=NC(=NC1)C)N | C6H8ClN3
reactant | triethylamine | 0.0030 mol, 0.42 ml | C(C)N(CC)CC | C6H15N
reactant | 1,2,3,4-tetrahydro-pyridin-4-ylmethyl benzoate | 0.0010 mol, 0.365 g | C(C1=CC=CC=C1)(=O)OCC1CCNC=C1 | C13H15NO2
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 1-(4-amino-2-methyl-pyrimidin-5-ylmethyl)-1,2,3,6-tetrahydro-pyridin-4-ylmethyl benzoate | 0.17 g, 74% | C(C1=CC=CC=C1)(=O)OCC=1CCN(CC1)CC=1C(=NC(=NC1)C)N | C19H22N4O2
